US06777443B2
HCl(g) is bubbled into a solution of BOC-S-benzyl-L-cysteine (9.33 g, 30 mmol) in ethanol (200 mL) for 15 minutes. The container is stoppered and stirred at room temperature overnight. The solvent is evaporated in vacuo and the residue stirred in diethyl ether (150 mL) for 1.5 hours to yield S-benzyl-L-cysteine ethyl ester hydrochloride as a solid.

reactant | HCl | Cl | ClH
reactant | BOC-S-benzyl-L-cysteine | 30 mmol, 9.33 g | C(=O)(OC(C)(C)C)N[C@@H](CSCC1=CC=CC=C1)C(=O)O | C15H21NO4S
reactant | ethanol | 200 mL | C(C)O | C2H6O
product | S-benzyl-L-cysteine ethyl ester hydrochloride | Cl.C(C)OC([C@@H](N)CSCC1=CC=CC=C1)=O | InChI=1S/C12H17NO2S.ClH/c1-2-15-12(14)11(13)9-16-8-10-6-4-3-5-7-10;/h3-7,11H,2,8-9,13H2,1H3;1H/t11-;/m0./s1
